US06806277B2
0.32 g of hydroxylamine hydrochloride is added, with stirring and under an inert atmosphere, to a mixture of 1.27 g of methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 13 cm3 of pyridine at a temperature in the region of 20° C. The mixture is stirred for 1 hour at a temperature in the region of 20° C. The resulting reaction mixture is diluted with 130 cm3 of distilled water and the mixture thus obtained is extracted with 50 cm3 of ethyl acetate and then two times with 30 cm3 of ethyl acetate. The combined organic phases are washed two times with 50 cm3 of distilled water, dried over magnesium sulfate and then concentrated to dryness under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography under a pressure of 50 kPa of nitrogen on a column of silica gel (particle size 20-45μ; weight of silica 160 g, diameter of the column 3.5 cm), elution being carried out with a mixture of ethyl acetate and cyclohexane (90/10 by volume). Fractions 20 to 22 are combined and then concentrated to dryness under the above conditions. 0.1 g of methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-hydroxyimino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate is obtained.

reactant | hydroxylamine hydrochloride | 0.32 g | Cl.NO
reactant | methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 1.27 g | S1C(=CC=C1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=O)C(=O)OC | C26H30N2O4S2
solvent | pyridine | 13 cm3 | N1=CC=CC=C1 | C5H5N
solvent | water | 130 cm3 | O | H2O
product | methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-hydroxyimino-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.1 g | S1C(=CC=C1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=NO)C(=O)OC | C26H31N3O4S2
